US05530019
A mixture of indole-3-carboxylic acid, 1-bromononane and potassium carbonate in N,N-dimethylformamide was stirred at room temperature for 15 hours. After insoluble materials were filtered off, the filtrate was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate and concentrated. The solid was collected and washed with hexane to give nonyl indole-3-carboxylate.

reactant | indole-3-carboxylic acid | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | 1-bromononane | BrCCCCCCCCC | C9H19Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | nonyl indole-3-carboxylate | N1C=C(C2=CC=CC=C12)C(=O)OCCCCCCCCC | C18H25NO2
